US05786367
5,7-diallyl-3,4-dihydro-6-hydroxy-1-(4-methoxybenzyl)-2(1H)-quinolinone;
1-(3-allyloxybenzyl)-5,7-diallyl-3,4-dihydro-6-hydroxy-2(1H)-quinolinone and 1-(cyclohexylmethyl)-5,7-diallyl-3,4-dihydro-6-hydroxy-2(1H)-quinolinone.

reactant | 1-(3-allyloxybenzyl)-5,7-diallyl-3,4-dihydro-6-hydroxy-2(1H)-quinolinone | C(C=C)OC=1C=C(CN2C(CCC3=C(C(=C(C=C23)CC=C)O)CC=C)=O)C=CC1 | C25H27NO3
reactant | 1-(cyclohexylmethyl)-5,7-diallyl-3,4-dihydro-6-hydroxy-2(1H)-quinolinone | C1(CCCCC1)CN1C(CCC2=C(C(=C(C=C12)CC=C)O)CC=C)=O | C22H29NO2
product | 5,7-diallyl-3,4-dihydro-6-hydroxy-1-(4-methoxybenzyl)-2(1H)-quinolinone | C(C=C)C1=C2CCC(N(C2=CC(=C1O)CC=C)CC1=CC=C(C=C1)OC)=O | C23H25NO3
